US06482819B1
7-Chloro-3-methyl-1-(4-nitrophenyl)-isochromane
11.94 g (70 mM) of 1-(4-chlorophenyl)-2-propanol [J. Med. Chem. 21, 454 (1978)] and 10.57 g (70 mM) of 4-nitrobenzaldehyde were dissolved in 70 ml of anhydrous benzene, then 9.56 g (70 mM) of freshly prepared anhydrous zinc chloride were added and dry hydrochloric acid gas was led into the mixture for 3 hours. Then the mixture was refluxed for 1.5 hours, cooled, diluted with water and the layers were separated. The organic layer was first washed with water then with a solution of sodium hydrogen carbonate, dried and evaporated. The resulting crude product was recrystallized from ethanol.

reactant | 1-(4-chlorophenyl)-2-propanol | 70 mM, 11.94 g | ClC1=CC=C(C=C1)CC(C)O | C9H11ClO
reactant | 4-nitrobenzaldehyde | 70 mM, 10.57 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | 70 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
product | 7-Chloro-3-methyl-1-(4-nitrophenyl)-isochromane | ClC1=CC=C2CC(OC(C2=C1)C1=CC=C(C=C1)[N+](=O)[O-])C | C16H14ClNO3
